US07105516B2
A solution of 5-bromo-3-cyanoindole (4.00 g, 18.1 mMol) in THF (20 mL) was added to a suspension of potassium hydride (2.28 g, 35% mineral oil dispersion, 19.9 mMol) in anhydrous THF (50 mL) at 0° C. After stirring for 15 min, the solution was cooled to −78° C., whereupon some precipitation occurred. A solution of n-butyllithium (2.5 M in hexanes, 16 mL) was slowly added via syringe. The resulting mixture was stirred at −78° C. for 15 minutes and then tributylborate (9.16 g, 39.8 mMol) was added. The mixture was removed from the cooling bath, stirred for 15 minutes, carefully quenched with water, and concentrated in vacuo. The residue was vigorously mixed with 1 N hydrochloric acid and extracted three times with ethyl acetate. The ethyl acetate layers were extracted three times with 1 N sodium hydroxide. The combined aqueous extracts were made acidic with concentrated hydrochloric acid to give 3-cyano-5-indolylboronic acid as a light tan precipitate which was collected by filtration and dried under vacuum (1.82 g, 55%). 1H-NMR (400 MHz, DMSO) δ 12.19 (1H, br s), 6.05 (1H, d, J=5.2 Hz), 8.24 (1H, d, J=2.8 Hz), 8.17 (1H, d, 6.4 Hz), 7.69 (1H, d, J=8.2 Hz), 7.49 (1H, d, J=8.2 Hz).

reactant | 5-bromo-3-cyanoindole | 18.1 mMol, 4.00 g | BrC=1C=C2C(=CNC2=CC1)C#N | C9H5BrN2
reactant | potassium hydride | 19.9 mMol, 2.28 g | [H-].[K+]
reactant | n-butyllithium | 2.5 M, 16 mL | C(CCC)[Li]
reactant | tributylborate | 39.8 mMol, 9.16 g | C(CCC)OB(OCCCC)OCCCC | C12H27BO3
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 3-cyano-5-indolylboronic acid | C(#N)C1=CNC2=CC=C(C=C12)B(O)O | C9H7BN2O2
